US06603008B1
2-Bromo-1-(4-hydroxy-2-methylphenyl)-1-ethanone (Step 1)
To a stirred solution of 4′-hydroxy-2′-methylacetophenone (4.5 g, 30.0 mmol) in dioxane (7 ml) was added a solution of bromine (4.87 g, 30.5 mmol) in dioxane (28 ml) dropwise at room temperature. After addition, the mixture was stirred at room temperature for 30 minutes. The volatile was evaporated in vacuo, and the residue was used for next reaction without further purification. (5.57 g, 81% yield).

reactant | 4′-hydroxy-2′-methylacetophenone | 30.0 mmol, 4.5 g | OC1=CC(=C(C=C1)C(C)=O)C | C9H10O2
reactant | bromine | 30.5 mmol, 4.87 g | BrBr | Br2
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 28 ml | O1CCOCC1 | C4H8O2
product | 2-Bromo-1-(4-hydroxy-2-methylphenyl)-1-ethanone | 81% yield | BrCC(=O)C1=C(C=C(C=C1)O)C | C9H9BrO2
